US06897231B2
C. 3-[4-(dimethylamino)phenyl]-1H-indazole-5-carboxamide
A solution of 3-[4-(dimethylamino)phenyl]-1H-indazole-5-carbonitrile (125 mg, 0.476 mmol) in 5.00 mL of concentrated aq. HCl was heated at 47° C. for 1 h, and then added dropwise with stirring to 20 mL of 6.0 N aq. NaOH that was cooled in a water bath. The mixture was extracted with 2× EtOAc, and the combined organics were dried (Na2SO4). Purification by silica gel chromatography using EtOAc as eluent afforded the title compound (69.3 mg, 52.1% yield): 1H NMR (DMSO-d6) δ 13.19 (s, 1H), 8.58 (s, 1H), 8.10 (br s, 1H), 7.9S-7.82 (m, 3H), 7.56 (d, 1H), 7.30 (br s, 1H), 6.84 (d, 2H), 2.98 (s, 6H); ES-MS (m/z) 281 [M+1]+.

reactant | 3-[4-(dimethylamino)phenyl]-1H-indazole-5-carbonitrile | 0.476 mmol, 125 mg | CN(C1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#N)C | C16H14N4
reactant | NaOH | 6.0 N, 20 mL | [OH-].[Na+]
solvent | HCl | 5.00 mL | Cl | ClH
product | 3-[4-(dimethylamino)phenyl]-1H-indazole-5-carboxamide | 69.3 mg, 52.1% yield | CN(C1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)N)C | C16H16N4O
